US09120801B2
A solution of 3,4-dihydropyrazino[1,2-b]indazol-1(2H)-one (375 mg; 2.0 mmol) in a mixture of tetrahydrofuran:dimethylformamide (DMF) in a ratio of 1:1 (4 ml) was added drop wise to a suspension of NaH 55% in mineral oil (104 mg; 2.4 mmol) in anhydrous tetrahydrofuran (THF), kept stirred at room temperature under argon atmosphere. The mixture was kept under stirring at the same temperature under inert atmosphere for 1 h; then, a solution of 1-(3-chloropropyl)-4-phenylpiperidine (4.4 g; 0.015 mol) in DMF (25 ml) was slowly added. Once the additions were over, the mixture was heated at the reflux temperature for 6 h. The reaction was then stopped by cooling the mixture to room temperature and by adding ethyl acetate (10 ml). The mixture was then filtered through a silica gel pad, then the solvent was removed by evaporation at reduced pressure. The residue was purified by flash chromatography on silica gel, using a mixture of chloroform:methanol in a ratio of 9:1 as eluent. The product thus purified was dissolved in a mixture of diethyl ether:ethanol in a ratio of 10:1 (10 ml) and processed at room temperature with 3M HCl in ethanol (0.33 ml). The solid thus formed was filtered and crystallized from a mixture of isopropanol:diisopropyl ether in a ratio 1:1. Thus, 197 mg of 2-[3-(4-phenylpiperidin-1-yl)propyl]-3,4-dihydropyrazino[1,2-b]indazol-1(2H)-one hydrochloride were obtained.

reactant | 3,4-dihydropyrazino[1,2-b]indazol-1(2H)-one | 2.0 mmol, 375 mg | C1(NCCN2N=C3C=CC=CC3=C21)=O | C10H9N3O
reactant | NaH | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-phenylpiperidine | 0.015 mol, 4.4 g | ClCCCN1CCC(CC1)C1=CC=CC=C1 | C14H20ClN
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | DMF | 25 ml | CN(C=O)C | C3H7NO
product | 2-[3-(4-phenylpiperidin-1-yl)propyl]-3,4-dihydropyrazino[1,2-b]indazol-1(2H)-one hydrochloride | 197 mg | Cl.C1(=CC=CC=C1)C1CCN(CC1)CCCN1C(C=2N(N=C3C=CC=CC23)CC1)=O | InChI=1S/C24H28N4O.ClH/c29-24-23-21-9-4-5-10-22(21)25-28(23)18-17-27(24)14-6-13-26-15-11-20(12-16-26)19-7-2-1-3-8-19;/h1-5,7-10,20H,6,11-18H2;1H
